US07034017B2
4-(4-Morpholin-3-onyl)aniline
Over a period of 2 hours, sodium hydride (88 g, 2.2 mol, 60% in paraffin) is added a little at a time to a solution of morpholin-3-one (202 g, 2 mol) in N-methylpyrrolidone (2 l). After the evolution of hydrogen has ceased, 4-fluoronitrobenzene (282 g, 2 mol) is added dropwise with cooling over a period of one hour, and the reaction mixture is stirred overnight. At 12 mbar and 76° C., 1.7 l of the volume of the liquid is then distilled off, the residue is poured into water (2 l) and this mixture is extracted twice with ethyl acetate (in each case 1 l). The combined organic phases are washed with water, dried over sodium sulfate, filtered and concentrated under reduced pressure. Purification is carried out by chromatography (on silica gel, hexane/ethyl acetate 1:1) and subsequent crystallization from ethyl acetate. Yield: 78 g (colorless to brownish solid), 17.6% of theory.

reactant | sodium hydride | 2.2 mol, 88 g | [H-].[Na+]
reactant | morpholin-3-one | 2 mol, 202 g | N1C(COCC1)=O | C4H7NO2
reactant | hydrogen | [H][H] | H2
reactant | 4-fluoronitrobenzene | 2 mol, 282 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | N-methylpyrrolidone | 2 l | CN1C(CCC1)=O | C5H9NO
product | 4-(4-Morpholin-3-onyl)aniline | N1(C(COCC1)=O)C1=CC=C(N)C=C1 | C10H12N2O2
